*MOLTIPLICATORE CARRY SAVE

.option filetype=ascii

.INCLUDE ST65LIKE_cell_library_v2020_1.net
.INCLUDE 16nm_HP.pm
.INCLUDE param.net

.subckt AND_ARRAY_SUB	0 Vdd out0 out1 out2 out3 x0 x1 x2 x3 y	XX=1
xand0	0 Vdd out0 x0 y	AND2_SUB XX=XXX
xand1	0 Vdd out1 x1 y	AND2_SUB XX=XXX
xand2	0 Vdd out2 x2 y	AND2_SUB XX=XXX
xand3	0 Vdd out3 x3 y	AND2_SUB XX=XXX
.ends 

.subckt ADD_ARRAY_SUB	0 Vdd sum0 sum1 sum2 sum3  Cout0  Cout1  Cout2  Cout3 a0 a1 a2 a3 b0 b1 b2 b3 	XX=1
xadd0	 0 vdd sum0 cout0 cin0 b0 a0	 FA_SUB XX=XXX
xadd1	 0 vdd sum1 cout1 cin1 b1 a1	 FA_SUB XX=XXX
xadd2	 0 vdd sum2 cout2 cin2 b2 a2	 FA_SUB XX=XXX
xadd3	 0 vdd sum3 cout3 cin3 b3 a3	 FA_SUB XX=XXX
.ends 

.subckt MCS_SUB	0 Vdd out0 x1 z2 x3 out0 x1 z2 x3 out0 x1 z2 x3 	XX=1
xand_Level0	 0 vdd	z0 0out1 0out2 0out3 0out4 	x0 x1 x2 x3 	y0	AND_ARRAY_SUB XX = XXX
xand_Level1	 0 vdd	1out0 1out1 1out2 1out3 	x0 x1 x2 x3 	y1	AND_ARRAY_SUB XX = XXX
xadd_Level2	 0 vdd	z1 2sum1 2sum2 	2cout0 2cout1 2cout2 	0     0     0     	1out0 1out1 1out2 	0out1 0out2 0out3 		ADD_ARRAY_SUB XX = XXX
xand_Level3	 0 vdd	3out0 3out1 3out2 3out3 	x0 x1 x2 x3 	y1	AND_ARRAY_SUB XX = XXX
xadd_Level4	 0 vdd	z2 4sum1 4sum2 	4cout0 4cout1 4cout2 	2cout0 2cout1 2cout2 	3out0 3out1 3out2 	2sum1 2sum2 1out3 		ADD_ARRAY_SUB XX = XXX
xand_Level5	 0 vdd	5out0 5out1 5out2 5out3 	x0 x1 x2 x3 	y3	AND_ARRAY_SUB XX = XXX
xadd_Level6	 0 vdd	z3 6sum1 6sum2 	6cout0 6cout1 6cout2 	4cout0 4cout1 4cout2 	5out0 5out1 5out2 	4sum1 4sum2 3out3 		ADD_ARRAY_SUB XX = XXX
xadd_Level7	 0 vdd	z4 z5    z6    	7cout0 7cout1 z7    	0     7cout0 7cout1 	6cout0 6cout1 6cout2 	5sum1 5sum2 4out3 	ADD_ARRAY_SUB XX = XXX
	.ends 

xmcs4 0 Vcc xz0 xz1 xz2 xz3 xz4 xz5 xz6 xz7 xx0 xx1 xx2 xx3 xy0 xy1 xy2 xy3 MCS_SUB XX = XXX

.TRAN 0.1p 500p
VinX3 X3 0 0
VinX2 X2 0 1
VinX1 X1 0 1
VinX0 X0 0 0
VinY3 Y3 0 0
VinY2 Y2 0 1
VinY1 Y1 0 1
VinY0 Y0 0 1
V_dd Vcc 0 1
.end